US05068392
A stirred solution of 0.1 g (2.3 mmole) of N-(2-carbomethoxy-6-chlorophenyl)acetamide in 10 mL of methanol containing 0.2 mL of conc. H2S04 was heated at reflux for ca. 18 hr. The methanol was removed in vacuo and the residue treated with 5 mL of EtOAc and 5 mL of H2O respectively. The phases were mixed and separated. The aqueous layer was extracted with 2×5 mL of EtOAc and the combined EtOAc solution dried (Na2SO4), filtered, and the solvent removed from the filtrate in vacuo. The product was purified by preparative thin layer chromatography (TLC) using 9:1 (v/v) CH2Cl2EtOAc. The band containing product was extracted with EtOAc and filtered. The solvent was removed from the filtrate in vacuo to afford 78 mg (91% yield) of methyl 3-chloroanthranilate as a light yellow solid: 1H NMR (CDCl3, TMS) δ7.80 (d, 8 Hz, H6), 7.39 (d, 8 Hz, H4), 6.55 (t, 8 Hz, H5), 6.25 (broad s, NH2), 3.90 (s, OCH3).

reactant | N-(2-carbomethoxy-6-chlorophenyl)acetamide | 2.3 mmole, 0.1 g | C(=O)(OC)C1=C(C(=CC=C1)Cl)NC(C)=O | C10H10ClNO3
solvent | methanol | 10 mL | CO | CH4O
product | methyl 3-chloroanthranilate | 78 mg, 91% yield | ClC1=C(C(C(=O)OC)=CC=C1)N | C8H8ClNO2
